US07094833B2
Synthesis of Acrylonitrile-n-butyl Acrylate-acrylonitrile Triblock Copolymer
Dehydrated toluene (200 parts by weight), hexamethylene diisocyanate (0.24 parts by weight), and dibutyltin bis(isooctyl thioglycolate) (0.001 parts by weight) were added to the mercapto group-terminated acrylonitrile-n-butyl acrylate diblock copolymer (100 parts by weight) synthesized in Example 1, and stirring was performed at 80° C. for 10 hours. The solvent was removed by distillation. 1H NMR analysis, IR analysis, and gel permeation chromatography analysis confirmed that the resultant polymer was an acrylonitrile-n-butyl acrylate-acrylonitrile triblock copolymer having thiourethane bonds in the main chain (Mw=99,700, Mn=66,500, and Mw/Mn=1.50).

reactant | hexamethylene diisocyanate | C(CCCCCN=C=O)N=C=O | C8H12N2O2
reactant | dibutyltin bis(isooctyl thioglycolate) | C(CCCCC(C)C)C(C(=O)[O-])S.C(CCCCC(C)C)C(C(=O)[O-])S.C(CCC)[Sn+2]CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Acrylonitrile n-butyl Acrylate acrylonitrile | C(C=C)#N.C(C=C)(=O)OCCCC.C(C=C)#N | InChI=1S/C7H12O2.2C3H3N/c1-3-5-6-9-7(8)4-2;2*1-2-3-4/h4H,2-3,5-6H2,1H3;2*2H,1H2
